V:Vce nc gnd V=$Vce
V:Vbe nb gnd V=$Vbe
BJT:DUT gnd nb nc @NPN
.dc
  .sweep param="Vbe" type="lin" start=0.625 stop=0.65 points=5
  .sweep param="Vce" type="lin" start=0 stop=0.3 points=100
